US08791123B2
(R)—N-cyclopropyl-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
To a solution of (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation I, 30.0 mg, 0.092 mmol) and HATU (52.1 mg, 0.137 mmol) in dry DMF (0.5 mL) was added cyclopropylamine (10.5 mg, 0.183 mmol) followed by diisopropylethylamine (35.5 mg, 0.275 mmol). The mixture was stirred under an atmosphere of N2 for 43 hours. The crude mixture was purified by reverse phase chromatography eluting with 0-50% acetonitrile/water to yield the title compound as a white solid (26 mg, 78% yield). MS (apci) m/z=367.0 (M+H).

reactant | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.092 mmol, 30.0 mg | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
reactant | HATU | 0.137 mmol, 52.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopropylamine | 0.183 mmol, 10.5 mg | C1(CC1)N | C3H7N
reactant | diisopropylethylamine | 0.275 mmol, 35.5 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (R)—N-cyclopropyl-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 26 mg, 78% yield | C1(CC1)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C=2C=NC=C(C2)F | C19H19FN6O
